US07265245B2
2′,4′-difluoro-4-methoxy-5-iodo-[1,1′]biphenyl-3-carboxylic acid
This compound was obtained by saponification of the ester of the previous example (Example 16) (ethyl 2′,4′-difluoro-4-methoxy-5-iodo-[1,1′]biphenyl-3-carboxylate). The ester (200 mg, 0.48 mmol) was dissolved in 20 ml of ethanol and a 2.5 N solution of NaOH for 2 hr. After cooling, the mixture was acidified with hydrochloric acid and extracted with dichloromethane. After the work-up, a crude was obtained that was recrystalized from a chloroform/hexane mixture.

reactant | ethyl 2′,4′-difluoro-4-methoxy-5-iodo-[1,1′]biphenyl-3-carboxylate | FC1=C(C=CC(=C1)F)C1=CC(=C(C(=C1)I)OC)C(=O)OCC | C16H13F2IO3
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2′,4′-difluoro-4-methoxy-5-iodo-[1,1′]biphenyl-3-carboxylic acid | FC1=C(C=CC(=C1)F)C1=CC(=C(C(=C1)I)OC)C(=O)O | C14H9F2IO3
